US05688792
Step 1: 3,5-difluoro-4-morpholinyl-nitrobenzene
To a solution of 1.468 g of morpholine and 3.0 mL of diisopropylethylarnine in 80 mL of acetenitrile was added a solution of 5.019 g of 2,6-difluoro-4-nitrobenzene (trifiuoromethane) sulfonate in 10 mL of acetonitrile. The mixture was heated to reflux for 5 hours, then cooled and concentrated in vacuo. The residue was purified on a silica gel column (3 cm tall, 10 cm diam), eluting with 25% ethyl acetate/hexanes (v/v) and then 2% acetic acid/25% ethyl acetate/hexanes to give 1.95 g of an orange oil. This was washed with 5% ethyl acetate/hexanes, and the bright yellow solids air dried, mp 91°-92° C.

reactant | morpholine | 1.468 g | N1CCOCC1 | C4H9NO
reactant | diisopropylethylarnine | 3.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,6-difluoro-4-nitrobenzene | 5.019 g | FC1=CC(=CC(=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3,5-difluoro-4-morpholinyl-nitrobenzene | 1.95 g | FC=1C=C(C=C(C1N1CCOCC1)F)[N+](=O)[O-] | C10H10F2N2O3
